parameters sky130_fd_pr__special_pfet_latch__tox_slope_spectre=0.0
parameters sky130_fd_pr__special_pfet_latch__vth0_slope_spectre=0.0
parameters sky130_fd_pr__special_pfet_latch__voff_slope_spectre=0.0
parameters sky130_fd_pr__special_pfet_latch__nfactor_slope_spectre=0.0
subckt sky130_fd_pr__special_pfet_latch (d g s b)
parameters l=1 w=1 ad=0 as=0 pd=0 ps=0 nrd=0 nrs=0 mult=1 sa=0 sb=0 sd=0.0
msky130_fd_pr__special_pfet_latch (d g s b) m_sky130_fd_pr__special_pfet_latch__model l=l w=w ad=ad as=as pd=pd ps=ps nrd=nrd nrs=nrs
@if l*$scale >= 2.45e-8 && l*$scale < 8.05e-8 && w*$scale >= 1.395e-7 && w*$scale < 1.405e-7
    model m_sky130_fd_pr__special_pfet_latch__model bsim3      tnom=30.0  tox=4.214e-009 * sky130_fd_pr__special_pfet_latch__tox_mult toxm=4.214e-9 xj=1.15e-7 nch=7.919257e+17 lln=1.0 lwn=1.0 wln=1.0 wwn=1.0 lint=-2.4825e-8 + sky130_fd_pr__special_pfet_latch__lint_diff ll=0.0 lw=0.0 lwl=0.0 wint=-5.522e-8 + sky130_fd_pr__special_pfet_latch__wint_diff wl=0.0 ww=0.0 wwl=0.0 mobmod=1.0 binunit=2.0 dwg=0.0 dwb=0.0 ldif=0.0 hdif=0.0 rd=0.0 rs=0.0 rsc=0.0 rdc=0.0 rsh=1.0 vth0=-0.8866 + sky130_fd_pr__special_pfet_latch__vth0_diff_0 k1=0.48313 k2=-0.086211 + sky130_fd_pr__special_pfet_latch__k2_diff_0 k3=0 + sky130_fd_pr__special_pfet_latch__k3_diff dvt0=0 + sky130_fd_pr__special_pfet_latch__dvt0_diff dvt1=1.0e-10 dvt2=0.0 dvt0w=0.0 dvt1w=10001.0 dvt2w=0.0 nlx=0.0 w0=1.0e-10 k3b=0.0 ngate=1.0e+23 vfb=-0.3872688 vsat=100410 + sky130_fd_pr__special_pfet_latch__vsat_diff_0 ua=-1.5724e-9 ub=1.0206e-18 uc=-2.1234e-11 rdsw=659.8838 + sky130_fd_pr__special_pfet_latch__rdsw_diff_0 prwb=0.0 prwg=0.0 wr=1.0 u0=0.0038566 + sky130_fd_pr__special_pfet_latch__u0_diff_0 a0=1.6572 keta=0.032965 a1=0.0 a2=0.4 ags=0.01944 b0=0.0 b1=0.0 voff=-0.17082 + sky130_fd_pr__special_pfet_latch__voff_diff_0 nfactor=2 + sky130_fd_pr__special_pfet_latch__nfactor_diff_0 cit=-0.002 + sky130_fd_pr__special_pfet_latch__cit_diff cdsc=0 + sky130_fd_pr__special_pfet_latch__cdsc_diff cdscb=0.0005 + sky130_fd_pr__special_pfet_latch__cdscb_diff cdscd=0 + sky130_fd_pr__special_pfet_latch__cdscd_diff eta0=0.001 etab=0.0 dsub=1.0e-10 pclm=2.4129 pdiblc1=0.0 pdiblc2=0.023805348 pdiblcb=-0.5 drout=1.0e-10 pscbe1=7.0054e+8 pscbe2=1.0e-20 pvag=0.0 delta=0.071729 alpha0=1.3735e-6 alpha1=0.0 beta0=23.765 kt1=-0.50219 + sky130_fd_pr__special_pfet_latch__kt1_diff_0 kt2=-0.048934 + sky130_fd_pr__special_pfet_latch__kt2_diff at=3000.3 ute=-0.8 ua1=-4.1272e-11 ub1=4.0968e-19 uc1=1.2689e-11 kt1l=0 + sky130_fd_pr__special_pfet_latch__kt1l_diff prt=0.49191 cj=0.00074079 * sky130_fd_pr__special_pfet_latch__ajunction_mult mj=0.34629 pb=0.6587 cjsw=9.88e-011 * sky130_fd_pr__special_pfet_latch__pjunction_mult mjsw=0.29781 pbsw=0.7418 cjswg=2.3894e-10 mjswg=0.9274 pbswg=1.4338 tpb=0.0020386 tpbsw=0.001246 tpbswg=0.0 tcj=0.0012407 tcjsw=0.00037357 tcjswg=2.0e-12 js=2.1483e-5 jsw=8.040000000000001e-10 nj=1.3632 xti=5.2 cgdo=1.4045e-010 * sky130_fd_pr__special_pfet_latch__overlap_mult cgso=1.4045e-010 * sky130_fd_pr__special_pfet_latch__overlap_mult cgbo=0.0 capmod=3.0 elm=0.0 xpart=0.0 cgsl=1.0005e-011 * sky130_fd_pr__special_pfet_latch__overlap_mult cgdl=1.0005e-011 * sky130_fd_pr__special_pfet_latch__overlap_mult ckappa=0.6 cf=1.2e-11 clc=1.0e-7 cle=0.6 dlc=-2.4825e-8 + sky130_fd_pr__special_pfet_latch__dlc_diff + sky130_fd_pr__special_pfet_latch__dlc_rotweak dwc=3.622e-8 + sky130_fd_pr__special_pfet_latch__dwc_diff vfbcv=-0.14469 acde=0.401 moin=18.13 noff=3.9 voffcv=-0.10701 lwc=0.0 llc=0.0 lwlc=0.0 wlc=0.0 wwc=0.0 wwlc=0.0 noimod=2.0 noia=5.3000000E+40 * 1.6e-21 noib=5.6400000E+22 * 1.6e-21 noic=6.0700000E+07 * 1.6e-21 em=4.1000000e+7 ef=0.88 type=-1
@elseif l*$scale >= 1.495e-7 && l*$scale < 1.505e-7 && w*$scale >= 1.395e-7 && w*$scale < 1.405e-7
    model m_sky130_fd_pr__special_pfet_latch__model bsim3      tnom=30.0  tox=4.214e-009 * sky130_fd_pr__special_pfet_latch__tox_mult + mc_mm_switch * 0 * (4.214e-09 * sky130_fd_pr__special_pfet_latch__tox_mult * (sky130_fd_pr__special_pfet_latch__tox_slope / sqrt(l * w * mult))) toxm=4.214e-9 xj=1.15e-7 nch=7.919257e+17 lln=1.0 lwn=1.0 wln=1.0 wwn=1.0 lint=0 + sky130_fd_pr__special_pfet_latch__lint_diff ll=0.0 lw=0.0 lwl=0.0 wint=0 + sky130_fd_pr__special_pfet_latch__wint_diff wl=0.0 ww=0.0 wwl=0.0 mobmod=1.0 binunit=2.0 dwg=0.0 dwb=0.0 rsh=1.0 vth0=-0.8866 + sky130_fd_pr__special_pfet_latch__vth0_diff_0 + mc_mm_switch * 0 * ((sky130_fd_pr__special_pfet_latch__vth0_slope / sqrt(l * w * mult))) k1=0.48313 k2=-0.086211 + sky130_fd_pr__special_pfet_latch__k2_diff_0 k3=0 + sky130_fd_pr__special_pfet_latch__k3_diff dvt0=0 + sky130_fd_pr__special_pfet_latch__dvt0_diff dvt1=1.0e-10 dvt2=0.0 dvt0w=0.0 dvt1w=10001.0 dvt2w=0.0 nlx=0.0 w0=1.0e-10 k3b=0.0 ngate=1.0e+23 vfb=-0.3872688 vsat=100410 + sky130_fd_pr__special_pfet_latch__vsat_diff_0 ua=-1.5724e-9 ub=1.0206e-18 uc=-2.1234e-11 rdsw=659.8838 + sky130_fd_pr__special_pfet_latch__rdsw_diff_0 prwb=0.0 prwg=0.0 wr=1.0 u0=0.0038566 + sky130_fd_pr__special_pfet_latch__u0_diff_0 a0=1.6572 keta=0.032965 a1=0.0 a2=0.4 ags=0.01944 b0=0.0 b1=0.0 voff=-0.17082 + sky130_fd_pr__special_pfet_latch__voff_diff_0 + mc_mm_switch * 0 * ((sky130_fd_pr__special_pfet_latch__voff_slope / sqrt(l * w * mult))) nfactor=2 + sky130_fd_pr__special_pfet_latch__nfactor_diff_0 + mc_mm_switch * 0 * ((sky130_fd_pr__special_pfet_latch__nfactor_slope / sqrt(l * w * mult))) cit=-0.002 + sky130_fd_pr__special_pfet_latch__cit_diff cdsc=0 + sky130_fd_pr__special_pfet_latch__cdsc_diff cdscb=0.0005 + sky130_fd_pr__special_pfet_latch__cdscb_diff cdscd=0 + sky130_fd_pr__special_pfet_latch__cdscd_diff eta0=0.001 etab=0.0 dsub=1.0e-10 pclm=2.4129 pdiblc1=0.0 pdiblc2=0.023805348 pdiblcb=-0.5 drout=1.0e-10 pscbe1=7.0054e+8 pscbe2=1.0e-20 pvag=0.0 delta=0.071729 alpha0=1.3735e-6 alpha1=0.0 beta0=23.765 kt1=-0.50219 + sky130_fd_pr__special_pfet_latch__kt1_diff_0 kt2=-0.048934 + sky130_fd_pr__special_pfet_latch__kt2_diff at=3000.3 ute=-0.8 ua1=-4.1272e-11 ub1=4.0968e-19 uc1=1.2689e-11 kt1l=0 + sky130_fd_pr__special_pfet_latch__kt1l_diff prt=0.49191 cj=0.00074079 * sky130_fd_pr__special_pfet_latch__ajunction_mult mj=0.34629 pb=0.6587 cjsw=9.88e-011 * sky130_fd_pr__special_pfet_latch__pjunction_mult mjsw=0.29781 pbsw=0.7418 cjswg=2.3894e-10 mjswg=0.9274 pbswg=1.4338 tpb=0.0020386 tpbsw=0.001246 tpbswg=0.0 tcj=0.0012407 tcjsw=0.00037357 tcjswg=2.0e-12 js=2.1483e-5 jsw=8.040000000000001e-10 nj=1.3632 xti=5.2 cgdo=1.4045e-010 * sky130_fd_pr__special_pfet_latch__overlap_mult cgso=1.4045e-010 * sky130_fd_pr__special_pfet_latch__overlap_mult cgbo=0.0 capmod=3.0 elm=0.0 xpart=0.0 cgsl=1.0005e-011 * sky130_fd_pr__special_pfet_latch__overlap_mult cgdl=1.0005e-011 * sky130_fd_pr__special_pfet_latch__overlap_mult ckappa=0.6 cf=1.2e-11 clc=1.0e-7 cle=0.6 dlc=5.67e-009 + sky130_fd_pr__special_pfet_latch__dlc_diff + sky130_fd_pr__special_pfet_latch__dlc_rotweak dwc=0 + sky130_fd_pr__special_pfet_latch__dwc_diff vfbcv=-0.14469 acde=0.401 moin=18.13 noff=3.9 voffcv=-0.10701 lwc=0.0 llc=0.0 lwlc=0.0 wlc=0.0 wwc=0.0 wwlc=0.0 type=-1
@end

ends // sky130_fd_pr__special_pfet_latch
subckt sky130_fd_pr__special_pfet_pass (d g s b)
parameters l=1 w=1 ad=0 as=0 pd=0 ps=0 nrd=0 nrs=0 mult=1 sa=0 sb=0 sd=0.0
xsky130_fd_pr__special_pfet_pass (d g s b) sky130_fd_pr__special_pfet_latch l=l w=w ad=ad as=as pd=pd ps=ps nrd=nrd nrs=nrs mult=mult sa=sa sb=sb sd=sd
ends // sky130_fd_pr__special_pfet_pass
